US04900782
Preparation of 2,5-Bis-(Chloromethyl)Furan
To a stirred solution of furan-2,5-dimethanol (25 mg, 0.2 mol) and pyridine (38.4 g, 0.48 mol) in a dry chloroform (120 mL) was added dropwise a solution of thionyl chloride (52.4 g, 0.44 mol) in dry chloroform (80 mL) at -40° C. (Ar) for 1.5 h. After addition, the mixture was stirred at -40° C. for 0.5 h then warmed to 0° C. for 0.5 h. After quenching with ice water (300 mL), the organic phase was washed with 5% sodium hydroxide (10 mL), dried, then evaporated to give a light brown oil. The brownish oil was distilled under vacuum (80°-82° C., 0.5 mm Hg) to give a colorless liquid which solidified at room temperature. Yield; 24 g (75%); M.P. 27°-28° C. (M.P. 27°-28° C., K. Yu. Noritskii, V. P. Volkoo, and Yu. K. Yuiey, Zhur. Obscher. Khim., 1961, 31, 538.)

reactant | furan-2,5-dimethanol | 0.2 mol, 25 mg | O1C(=CC=C1CO)CO | C6H8O3
reactant | pyridine | 0.48 mol, 38.4 g | N1=CC=CC=C1 | C5H5N
reactant | thionyl chloride | 0.44 mol, 52.4 g | S(=O)(Cl)Cl | Cl2OS
reactant | chloroform | 80 mL | C(Cl)(Cl)Cl | CHCl3
reactant | chloroform | 120 mL | C(Cl)(Cl)Cl | CHCl3
product | 2,5-Bis-(Chloromethyl)Furan | ClCC=1OC(=CC1)CCl | C6H6Cl2O
